US07517889B2
Argon is bubbled through a mixture of N-(6-bromo-benzothiazol-2-yl)-acetamide (5 g, 0.018 mol), bis(pinacolato)diboron (9.6 g, 0.038 mol), potassium acetate (9.3 g, 0.095 mol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride (816 mg, 1 mmol) in dimethylsulfoxide (60 mL) for a period of 10 minutes. The reaction vessel is sealed and heated to 90° C. After stirring for 18 hours the mixture is diluted with water (200 mL) and extracted twice with EtOAc (100 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and evaporated. The residue is subjected to chromatography on silica gel eluting with 70% ethyl acetate:heptane to afford N-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzothiazol-2-yl]-acetamide (5.06 g, 88.3%) as a solid.

reactant | N-(6-bromo-benzothiazol-2-yl)-acetamide | 0.018 mol, 5 g | BrC1=CC2=C(N=C(S2)NC(C)=O)C=C1 | C9H7BrN2OS
reactant | bis(pinacolato)diboron | 0.038 mol, 9.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.095 mol, 9.3 g | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 60 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride | 1 mmol, 816 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzothiazol-2-yl]-acetamide | 5.06 g, 88.3% | CC1(OB(OC1(C)C)C1=CC2=C(N=C(S2)NC(C)=O)C=C1)C | C15H19BN2O3S
